US07521461B2
Methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}benzyl)oxy]benzoate (0.242 g, 0.555 mmol) was dissolved in EtOH (5 ml, 95%), potassium hydroxide (0.062 g, 1.111 mmol) was added. The reaction was performed in an single node microwave oven (7 min, 150° C.). Work-up by removing the solvent by evaporation and addition of HCl (2 ml, 1 M). The water-phase was extracted with two portions of EtOAc (20 ml) and the organic phase was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by flash chromatography (started with isocratic DCM 100% and then the MeOH concentration was increased from 0.5% to 20%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation to give 0.013 g of 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}benzyl)oxy]benzoic acid (yield 5.6%).

reactant | Methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}benzyl)oxy]benzoate | 0.555 mmol, 0.242 g | C(C)N(C(CC1=CC=C(COC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C26H26FNO4
reactant | potassium hydroxide | 1.111 mmol, 0.062 g | [OH-].[K+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}benzyl)oxy]benzoic acid | 0.013 g, yield 5.6% | C(C)N(C(CC1=CC=C(COC2=C(C(=O)O)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C25H24FNO4
